US05244908
Synthesis of 5-[4-(phthalimido)butylthio]imidazo[1,2-a]pyridine (Compound 155)
To a suspension of 5-mercaptoimidazo[1,2-a]pyridine (3.00g, 20 mmoles) and N-[4-(bromo)butyl]phthalimide (6.21 g, 22 mmoles) in ethanol (200 ml) was added triethylamine (4.2 ml, 30 mmoles) and the mixture was stirred at room temperature for 1 hour and heated at reflux for 45 minutes. After the solvent was distilled off, chloroform was added to the residue, which was washed with saturated saline, dried over anhydrous magnesium sulfate and the solvent was distilled off. Then, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 4.50 g of the desired product (64.1%, pale yellow crystals).

reactant | 5-mercaptoimidazo[1,2-a]pyridine | 20 mmoles, 3.00g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | N-[4-(bromo)butyl]phthalimide | 22 mmoles, 6.21 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | triethylamine | 30 mmoles, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-[4-(phthalimido)butylthio]imidazo[1,2-a]pyridine | 4.50 g, 64.1% | C1(C=2C(C(N1CCCCSC1=CC=CC=3N1C=CN3)=O)=CC=CC2)=O | C19H17N3O2S
